US08283365B2
Intermediate 12: N-(4-cyano-2-iodophenyl)-2,2,2-trifluoroacetamide
To a round bottomed flask equipped with an addition funnel, thermometer, reflux condenser, and nitrogen inlet were added 4-cyano-2-iodoaniline (7.88 g), acetonitrile (24 mL), and triethylamine (4.5 mL). Trifluoroacetic anhydride (5.0 mL) was added to the suspension while maintaining the temperature below 35-40° C. Note: exothermic addition is addition-rate controlled. The reaction was stirred for 30 min, diluted with water (31.5 mL). Note: initial portion of addition is exothermic and is addition-rate controlled. The slurry was held at 15-20° C. for 60 min. The product was isolated by filtration. The solid was washed with 80% aqueous acetonitrile, and dried in vacuo to give the title compound as a colorless solid (9.9 g);

reactant | 4-cyano-2-iodoaniline | 7.88 g | C(#N)C1=CC(=C(N)C=C1)I | C7H5IN2
reactant | acetonitrile | 24 mL | C(C)#N | C2H3N
reactant | triethylamine | 4.5 mL | C(C)N(CC)CC | C6H15N
reactant | Trifluoroacetic anhydride | 5.0 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | water | 31.5 mL | O | H2O
product | N-(4-cyano-2-iodophenyl)-2,2,2-trifluoroacetamide | 9.9 g | C(#N)C1=CC(=C(C=C1)NC(C(F)(F)F)=O)I | C9H4F3IN2O
